US07576215B2
PYRIDIN-2-YL{8-(TRIFLUOROMETHYL)-4-[3-(TRIFLUOROMETHYL)PHENYL]QUINOLIN-3-YL}METHANONE
This compound was prepared using the procedure of Example 1, step 5 using (4-chloro-8-trifluoromethyl-quinolin-3-yl)-pyridin-2-yl-methanone in place of [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 3-trifluoromethylphenylboronic acid in place of phenyl boronic acid. MS (ESI) m/z 447 ([M+H]+); Anal. Calcd for C23H12F6N2O: C, 61.89; H, 2.71; N, 6.28. Found: C, 61.70; H, 2.66; N, 6.14.

reactant | (4-chloro-8-trifluoromethyl-quinolin-3-yl)-pyridin-2-yl-methanone | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=NC=CC=C1 | C16H8ClF3N2O
reactant | 3-trifluoromethylphenylboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | PYRIDIN-2-YL{8-(TRIFLUOROMETHYL)-4-[3-(TRIFLUOROMETHYL)PHENYL]QUINOLIN-3-YL}METHANONE | N1=C(C=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C23H12F6N2O
